US08877805B2
Step 1. Synthesis of 4-ethoxycarbonylfuran-2-carboxylic acid
3-Furancarboxylic acid ethyl ester (1.4 g, 10.0 mmol) was dissolved in acetic acid (10 mL), bromine (1.6 g, 10.0 mmol) was added, and the mixture was stirred overnight. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=80/20). The obtained crude fraction was dissolved in N,N-dimethylformamide (15 mL), palladium acetate (0.18 g, 0.78 mmol), triphenylphosphine (0.41 g, 1.55 mmol), triethylamine (2.2 mL, 15.5 mmol), and water (0.7 mL, 38.8 mmol) were added, and the mixture was stirred at 80° C. overnight under a carbon monoxide atmosphere. 1N Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by high performance liquid chromatography to give the title compound (0.47 g).

reactant | 3-Furancarboxylic acid ethyl ester | 10.0 mmol, 1.4 g | C(C)OC(=O)C1=COC=C1 | C7H8O3
reactant | bromine | 10.0 mmol, 1.6 g | BrBr | Br2
reactant | triphenylphosphine | 1.55 mmol, 0.41 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 15.5 mmol, 2.2 mL | C(C)N(CC)CC | C6H15N
reactant | water | 38.8 mmol, 0.7 mL | O | H2O
reactant | Hydrochloric acid | 1N | Cl | ClH
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.78 mmol, 0.18 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-ethoxycarbonylfuran-2-carboxylic acid | 0.47 g | C(C)OC(=O)C=1C=C(OC1)C(=O)O | C8H8O5
